US07074817B2
Ethyl (1-benzyl-6-phenyl-1H-indol-3-yl)(oxo)acetate
Ethyl (1-benzyl-6-phenyl-1H-indol-3-yl)(oxo)acetate was prepared from, 1-benzyl-6-phenyl-1H-indole (1.90 g, 6.71 mmol), oxalyl chloride (1.8 mL, 20 mmol), and ethanol (4 mL). Purification by flash chromatography, using 5-12.5% ethyl acetate in hexane as an eluant, yielded the title compound as a light yellow solid (1.98 g, 77%), mp: 121-123° C. Mass spectrum (+ES, [M+H]+) m/z 384; 1HNMR (500 MHz, DMSO-d6): δ 8.7 (s, 1H), 8.25 (d, 1H, J=8.2 Hz), 7.9 (d, 1H, J=0.46 Hz), 7.7 (d, 2H, J=7.9 Hz), 7.65 (dd, 1H, J=8.2 H and 0.76 Hz), 7.45 (t, 2H, J=7.6 Hz), 7.35-7.4 (m, 5H), 7.25-7.35 (m, 1H), 5.65 (s, 2H), 4.35 (q, 2H, J=7.1 Hz), and 1.35 ppm (t, 3H, J=7.1).

reactant | 1-benzyl-6-phenyl-1H-indole | 6.71 mmol, 1.90 g | C(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)C1=CC=CC=C1 | C21H17N
reactant | oxalyl chloride | 20 mmol, 1.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 4 mL | C(C)O | C2H6O
product | Ethyl (1-benzyl-6-phenyl-1H-indol-3-yl)(oxo)acetate | 1.98 g, 77% | C(C1=CC=CC=C1)N1C=C(C2=CC=C(C=C12)C1=CC=CC=C1)C(C(=O)OCC)=O | C25H21NO3
